US07566712B2
A. 4-{4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-morpholine
To a rubber-septum-capped vial containing 4,6-dichloro-2-morpholinopyrimidine (0.2 M in dioxane, 0.25 mL) and 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine (0.2 M in dioxane, 0.28 mL) (Oakwood Products, Inc., West Columbia, S.C.) add aqueous K3PO4 (0.5 M, 0.125 mL). Heat the mixture at 90° C. for 24 hours. After cooling, add 3-chloro-4-fluorophenylboronic acid (0.2 M in dioxane, 0.35 mL) and K3PO4 (0.5 M in water, 0.10 mL) and flush the vial with argon. Add Pd(PPh3)4 (0.01 M in toluene, 0.125 mL). Heat the mixture at 80° C. overnight, add EtOAc(0.5 mL), separate the organic phase and load onto a 6-mL cartridge containing 1 g of SCX (a sulfonic acid-pregnated silica gel strong cation exchanger). Wash the SCX cartridge with 5 mL of MeOH and elute the product with 10% Et3N in EtOAc (5 mL). Concentrate the eluent to give the pure product which can be converted to the HCl salt: LCMS (m/e); 523, 1H NMR (CDCl3); d 3.4 (br s, 4 H), 3.8 (br s, 4 H), 4.0 (br s, 8 H), 6.4 (br s, 1H), 7.1 (br s, 1H), 7.2 (br s, 1H), 7.9 (m, 3 H), 8.5 (s, 1H).

reactant | 4,6-dichloro-2-morpholinopyrimidine | 0.2 M, 0.25 mL | ClC1=NC(=NC(=C1)Cl)N1CCOCC1 | C8H9Cl2N3O
reactant | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 0.2 M, 0.28 mL | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | K3PO4 | 0.5 M, 0.125 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-chloro-4-fluorophenylboronic acid | 0.2 M, 0.35 mL | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | K3PO4 | 0.5 M, 0.10 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | HCl | Cl | ClH
product | 4-{4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-morpholine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1 | C24H23ClF4N6O
